US05215982
To a solution of 1-(2-oxopropyl)-5-triphenylmethylaminopyrazole (0.75 g) in methanol was added conc. hydrochloric acid (0.75 ml). The mixture was stirred for 2 hours. The reaction mixture was added to a mixture of ethyl acetate, tetrahydrofuran and ice-cold water, and the mixture was adjusted to pH 8 with sodium bicarbonate. The organic layer was separated and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. The residue was pulverized with diisopropyl ether to give 2-methyl-1H-imidazo[1,2-b]pyrazole.

reactant | 1-(2-oxopropyl)-5-triphenylmethylaminopyrazole | 0.75 g | O=C(CN1N=CC=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C25H23N3O
reactant | hydrochloric acid | 0.75 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methyl-1H-imidazo[1,2-b]pyrazole | CC=1NC=2N(N=CC2)C1 | C6H7N3
